US05756505
Synthesis of ethyl 4-hydroxy-3-isobutylbenzoate
Ethyl 4-hydroxy-3-methallylbenzoate (25.5 g) was dissolved in ethanol (250 ml) and then, with 10% palladium charcoal (2.6 g) added thereto, this mixture was stirred at room temperature for 41 hours under a hydrogen gas atmosphere. After the reaction mixture was filtered, the filtrate was concentrated under a vacuum, thereby yielding 25.6 g of the aimed oily compound.

reactant | Ethyl 4-hydroxy-3-methallylbenzoate | 25.5 g | OC1=C(C=C(C(=O)OCC)C=C1)CC(C)=C | C13H16O3
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium charcoal | 2.6 g | [Pd] | Pd
product | ethyl 4-hydroxy-3-isobutylbenzoate | OC1=C(C=C(C(=O)OCC)C=C1)CC(C)C | C13H18O3
